US04939290
To a 1 liter four neck round bottom flask equipped with mechanical stirrer, two dropping funnels and a thermometer was introduced 20 g (86.71 mmol) of 2-amino-4,5-difluorobenzoic acid and a solution of 12.3 ml concentrated sulfuric acid in 90 ml water. The slurry was cooled to between 0° and -5° C. in an ice-acetone bath. One of the dropping funnels was charged with a solution of 6.57 g (95.22 mmol) sodium nitrite in 30 ml of water and slow addition of the solution was begun. The internal reaction temperature never rose above 0° C. and all the solution has been introduced after 5 minutes. The second dropping funnel was charged with a solution of 21.6 g (128.31 mmol) potassium iodide in 45 ml of 1N sulfuric acid. This solution was then added dropwise over a period of 10 minutes with the internal temperature at or below 0° C. During addition, the reaction mixture releases nitrogen gas which causes some foaming. Once the addition was completed, the dark mixture was stirred overnight while slowly warming to room temperature. The reaction mixture was quenched with a solution of 30 g of sodium bisulfite in 165 ml water and the suspension was adjusted to pH 2.5 with 5 ml of 6 N hydrochloric acid. The resulting slurry was stirred at 0° C. for 30 minutes and then filtered. Purification of the dark material was effected by dissolving the majority of the solid in ethyl acetate followed by clarification and treatment with activated charcoal. After filtration through a filter aid (celite) and evaporation there was obtained 20 g (82%) of 2-iodo-4,5-difluorobenzoic acid; m.p.: 126°-127° C.

reactant | 2-amino-4,5-difluorobenzoic acid | 86.71 mmol, 20 g | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
reactant | sodium nitrite | 95.22 mmol, 6.57 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 128.31 mmol, 21.6 g | [I-].[K+]
solvent | water | 90 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | sulfuric acid | 1N, 45 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 12.3 ml | S(O)(O)(=O)=O | H2O4S
product | 2-iodo-4,5-difluorobenzoic acid | 20 g, 82% | IC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F2IO2
